US07026478B2
To a solution of 6-chloro-2-(trifluoromethanesulfonyloxy)pyridine (508 mg, 1.94 mmol) and Fe(acac)3 (34 mg, 0.096 mmol) in THF (8 mL) and NMP (2.3 mL) at 0° C. is slowly added a solution of isobutylmagnesium bromide (2M in Et2O, 1.1 mL, 2.2 mmol) causing a color change to yellow-brown. After stirring for 3 min at that temperature, a solution of C14H29MgCl (1M in THF, 2.3 mL, 2.3 mmol) is introduced via syringe causing an immediate color change to black-violet. After stirring for 5 min, an additional portion of Fe(acac)3 (20 mg, 0.057 mmol) and C14H29MgCl (1M in THF, 0.5 mL, 0.5 mmol) are added consecutively and the resulting mixture is stirred for another 15 min. Quenching of the reaction with brine followed by a standard extractive work up and flash chromatography (hexanes/ethyl acetate, 20/1) affords 2-(isobutyl)-6-(tetradecyl)pyridine as a colorless liquid (449 mg, 71%). 1H NMR (300 MHz, CDCl3): δ 7.47 (t, J=8.3 Hz, 1H), 6.94 (d, J=7.6 Hz, 1H), 6.90 (d, J=7.6 Hz, 1H), 2.71 (t, J=7.7 Hz, 2H), 2.58 (d, J=7.2 Hz, 2H), 2.07 (m, J=6.8 Hz, 1H), 1.68 (m, 2H), 1.20–1.35 (m, 22H), 0.87–0.92 (m, 9H). 13C NMR (75 MHz, CDCl3): 161.9, 160.9, 136.0, 120.4, 119.6, 47.6, 38.5, 32.0, 30.1, 29.80, 29.78, 29.75, 29.71, 29.6, 29.48, 29.47, 29.2, 22.8, 22.3, 13.9. MS m/z (rel. intensity) 331 (11, [M+], 316 (9), 289 (31), 176 (11), 162 (16), 149 (100), 120 (24), 107 (23).

reactant | 6-chloro-2-(trifluoromethanesulfonyloxy)pyridine | 1.94 mmol, 508 mg | ClC1=CC=CC(=N1)OS(=O)(=O)C(F)(F)F | C6H3ClF3NO3S
reactant | isobutylmagnesium bromide | 2.2 mmol, 2M, 1.1 mL | C(C(C)C)[Mg]Br
reactant | C14H29MgCl | 2.3 mmol, 1M, 2.3 mL | C(CCCCCCCCCCCCC)[Mg]Cl
reactant | C14H29MgCl | 0.5 mmol, 1M, 0.5 mL | C(CCCCCCCCCCCCC)[Mg]Cl
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | NMP | 2.3 mL | CN1CCCC1=O | C5H9NO
product | 2-(isobutyl)-6-(tetradecyl)pyridine | 449 mg, 71% | C(C(C)C)C1=NC(=CC=C1)CCCCCCCCCCCCCC | C23H41N
